US08809525B2
5-Phenyl-6-[3-(trifluoromethyl)phenoxy]-1,2,4-triazin-3-amine (21 mg, 4%) was prepared from 6-bromo-5-phenyl-1,2,4-triazin-3-amine (0.40 g, 1.59 mmol) and 3-(trifluoromethyl)phenol (0.52 g, 3.18 mmol) according to the general procedure of Example 3.

reactant | 6-bromo-5-phenyl-1,2,4-triazin-3-amine | 1.59 mmol, 0.40 g | BrC1=C(N=C(N=N1)N)C1=CC=CC=C1 | C9H7BrN4
reactant | 3-(trifluoromethyl)phenol | 3.18 mmol, 0.52 g | FC(C=1C=C(C=CC1)O)(F)F | C7H5F3O
product | 5-Phenyl-6-[3-(trifluoromethyl)phenoxy]-1,2,4-triazin-3-amine | 21 mg, 4% | C1(=CC=CC=C1)C=1N=C(N=NC1OC1=CC(=CC=C1)C(F)(F)F)N | C16H11F3N4O
